US07683060B2
Step 1. 3-(Methylthio)-6-phenyl-1,2,4-triazin-5(4H)-one
A mixture of thiosemicarbazide (1.8 g, 0.020 mol) and benzoylformic acid (3.0 g, 0.020 mol) in water (50 mL) was heated under reflux for 15 min. Then potassium hydroxide (1.5 g, 0.027 mol) in methanol (50 mL) was added at 80° C. The reaction mixture was stirred and heated at 80° C. for 2 days. After cooling to 35° C., methyl iodide (1.4 mL, 0.022 mol) was added. The reaction mixture was stirred at 40° C. for 30 min. The mixture was concentrated. The precipitate formed was collected by filtration, washed with water, and dried under vacuum to afford the desired product (4.3 g, 97.7%). Analytical LCMS: (M+H)+=220.1.

reactant | thiosemicarbazide | 0.020 mol, 1.8 g | NNC(=S)N | CH5N3S
reactant | benzoylformic acid | 0.020 mol, 3.0 g | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
reactant | potassium hydroxide | 0.027 mol, 1.5 g | [OH-].[K+]
reactant | methyl iodide | 0.022 mol, 1.4 mL | CI | CH3I
solvent | water | 50 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 3-(Methylthio)-6-phenyl-1,2,4-triazin-5(4H)-one | 4.3 g, 97.7% | CSC1=NN=C(C(N1)=O)C1=CC=CC=C1 | C10H9N3OS
